US08207329B2
2-(2-Methoxyethyl)-1,3-dithiane (38).
A solution of 1,3-dithiane (15.12 g, 126.0 mmol) in dry THF (150 mL) was treated at 0° C. with BuLi (53.0 mL of a 2.5 M solution, 132.5 mmol, 1.05 eqiuv) for 1.5 h. The reaction mixture was cooled to −78° C., and 2-bromoethyl methyl ether was added (11.3 mL, 16.7 g, 120.2 mmol). The reaction mixture was allowed to warm overnight to room temperature. The reaction was quenched by addition of saturated aqueous NH Cl. The mixture was extracted with Et2O. The combined organic extracts were washed with water. The mixture was dried over Na2SO4. The mixture was filtered. The filtrate was concentrated at reduced pressure. The residue was chromatographed [silica, ethyl acetate/hexanes (1:19)] affording a viscous, colorless liquid (21.53 g, 96%): 1H NMR δ 1.84-1.93 (m, 1H), 1.96-2.03 (m, 2H), 2.07-2.15 (m, 1H), 2.78-2.93 (m, 4H), 3.34 (s, 3H), 3.51-3.55 (m, 4H), 4.19 (t, J=6.9 Hz, 1H); 13C NMR δ 26.16, 30.40, 35.58, 44.16, 58.84, 68.92; EI-MS: 178 (M+), 146, 133, 119/121, 71/73, 45.

reactant | 1,3-dithiane | 126.0 mmol, 15.12 g | S1CSCCC1 | C4H8S2
reactant | BuLi | [Li]CCCC
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(2-Methoxyethyl)-1,3-dithiane | 21.53 g, 96% | COCCC1SCCCS1 | C7H14OS2
